US20010025045A1
2,4-Diethoxy-5-bromobenzonitrile
To a solution of 2,4-diethoxybenzonitrile (26.25g, 0.14mol) in chloroform was added a solution of bromine (7.09ml, 0.14mol) in chloroform (75ml). The solution was stirred overnight at 25° C. then concentrated in vacuo to afford the title compound as a yellow solid (36.6g, 99%).

reactant | 2,4-diethoxybenzonitrile | 0.14mol, 26.25g | C(C)OC1=C(C#N)C=CC(=C1)OCC | C11H13NO2
reactant | bromine | 0.14mol, 7.09ml | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4-Diethoxy-5-bromobenzonitrile | 36.6g, 99% | C(C)OC1=C(C#N)C=C(C(=C1)OCC)Br | C11H12BrNO2
